US08975400B2
1-(3,4-difluorophenoxy)-2-fluoro-4-vinylbenzene
The title compound was prepared by a procedure similar to that described for D162 starting from bromo(methyl)triphenylphosphorane, potassium 2-methylpropan-2-olate and 4-(3,4-difluorophenoxy)-3-fluorobenzaldehyde.

reactant | bromo(methyl)triphenylphosphorane | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C | C19H18BrP
reactant | potassium 2-methylpropan-2-olate | CC(C)(C)[O-].[K+]
reactant | 4-(3,4-difluorophenoxy)-3-fluorobenzaldehyde | FC=1C=C(OC2=C(C=C(C=O)C=C2)F)C=CC1F | C13H7F3O2
product | 1-(3,4-difluorophenoxy)-2-fluoro-4-vinylbenzene | FC=1C=C(OC2=C(C=C(C=C2)C=C)F)C=CC1F | C14H9F3O
